US07622583B2
To a cooled mixture of 6-fluoro picolinic acid (1.19 g, 8.43 mmol), N,O-dimethylhydroxyl amine (860 mg, 8.82 mmol) and Et3N (3.27 mL, 23.52 mmol) in CH2Cl2 (10 mL) was added 1-propane phosphonic acid cyclic anhydride (4.49 mL, 7.05 mmol; 50 wt% solution in EtOAc) dropwise and stirred at room temperature for 3 h. The reaction mixture was filtered, washed with CH2Cl2 (2×10 mL), evaporated to dryness, and subjected to column chromatography (SiO2, 40% EtOAc-hexanes) to obtain 6-fluoro-pyridine-2-carboxylic acid methoxy-methyl-amide (1.19 g) in 73% yield. ESMS m/z (relative intensity): 185 (M+H)+ (100).

reactant | 6-fluoro picolinic acid | 8.43 mmol, 1.19 g | FC1=CC=CC(=N1)C(=O)O | C6H4FNO2
reactant | N,O-dimethylhydroxyl amine | 8.82 mmol, 860 mg | CNOC | C2H7NO
reactant | Et3N | 23.52 mmol, 3.27 mL | CCN(CC)CC | C6H15N
reactant | 1-propane phosphonic acid cyclic anhydride | 7.05 mmol, 4.49 mL | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-fluoro-pyridine-2-carboxylic acid methoxy-methyl-amide | 1.19 g, 73% yield | CON(C(=O)C1=NC(=CC=C1)F)C | C8H9FN2O2
